US07192968B2
cis-N1,N2-Dimethyl-1,2-cyclohexanediamine hydrochloride
cis-N1,N2-Bis(tert-butoxycarbonyl)-N1,N2-dimethyl-1,2-cyclohexanediamine (2.15 g) was dissolved in a saturated ethanol solution of hydrochloric acid, and the solution was stirred at room temperature for 30 minutes. The solvent was distilled off under reduced pressure, ethyl acetate was added to the residue, and solids were collected by filtration to obtain the title compound (1.19 g) as a pale yellow solid.

reactant | cis-N1,N2-Bis(tert-butoxycarbonyl)-N1,N2-dimethyl-1,2-cyclohexanediamine | 2.15 g | C(C)(C)(C)OC(=O)N([C@H]1[C@H](CCCC1)N(C)C(=O)OC(C)(C)C)C | C18H34N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | cis-N1,N2-Dimethyl-1,2-cyclohexanediamine hydrochloride | 1.19 g | Cl.CN[C@H]1[C@H](CCCC1)NC | InChI=1S/C8H18N2.ClH/c1-9-7-5-3-4-6-8(7)10-2;/h7-10H,3-6H2,1-2H3;1H/t7-,8+;
